US07208517B1
N-phenyl-t-butylamine
t-Butylamine (2.0 eq.) was stirred in dry THF at r.t. and n-butyllithium (1.2 eq.) was added slowly. The resulting mixture was stirred for 30 min. and then bromobenzene (1.0 eq.) added, refluxed for 4 hr. After work-up, it was purified and separated by a column(silica) to elute with hexane and ethyl acetate (9:1). Yield 50%.

reactant | t-Butylamine | 2.0 eq. | C(C)(C)(C)N | C4H11N
reactant | n-butyllithium | 1.2 eq. | C(CCC)[Li]
reactant | bromobenzene | 1.0 eq. | BrC1=CC=CC=C1 | C6H5Br
solvent | THF | C1CCOC1 | C4H8O
product | N-phenyl-t-butylamine | Yield 50% | C1(=CC=CC=C1)NC(C)(C)C | C10H15N
